US08912190B2
tert-butyl 2-(7-bromo-3-tert-butyl-2-oxoquinoxalin-1(2H)-yl)ethylcarbamate (360 mg, 0.85 mmol), the compound of formula (a), prepared as described in Example 3B, was dissolved in dioxane (1 mL) and reacted with 4N hydrochloric acid in dioxane (1 mL) at room temperature for 3 days. The solution was concentrated to provide 1-(2-aminoethyl)-7-bromo-3-tert-butylquinoxalin-2(1H)-one hydrochloride as a tan solid. This solid was dissolved in chloroform (8 mL), and acetoxyacetyl chloride (0.107 mL) and triethylamine (0.5 mL) were added in small portions over a period of 3 hours. The reaction mixture was then concentrated under reduced pressure, and the resulting 2-(2-(7-bromo-3-tert-butyl-2-oxoquinoxalin-1(2H)-yl)ethylamino)-2-oxoethyl acetate (b) was crystallized from methanol, then taken up in ethyl acetate (10 mL) and washed 3 times with water, then brine, dried over sodium sulfate, and concentrated under reduced pressure to provide 280 mg of 2-(2-(7-bromo-3-tert-butyl-2-oxoquinoxalin-1(2H)-yl)ethylamino)-2-oxoethyl acetate as an oil that crystallized upon standing into a white solid.

reactant | tert-butyl 2-(7-bromo-3-tert-butyl-2-oxoquinoxalin-1(2H)-yl)ethylcarbamate | 0.85 mmol, 360 mg | BrC1=CC=C2N=C(C(N(C2=C1)CCNC(OC(C)(C)C)=O)=O)C(C)(C)C | C19H26BrN3O3
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 1-(2-aminoethyl)-7-bromo-3-tert-butylquinoxalin-2(1H)-one hydrochloride | Cl.NCCN1C(C(=NC2=CC=C(C=C12)Br)C(C)(C)C)=O | InChI=1S/C14H18BrN3O.ClH/c1-14(2,3)12-13(19)18(7-6-16)11-8-9(15)4-5-10(11)17-12;/h4-5,8H,6-7,16H2,1-3H3;1H
